US05712414
a) Preparation of N-sec-butyl-4-methylaniline
411 g (3 mol) of 4-nitrobenzene, 238 g (3.3 mol) of butan-2-one and 8 g of a platinum catalyst on activated charcoal (sulfited; 50% moisture content) are placed in an autoclave (volume: 2 liters) fitted with a reciprocating stirrer, and are reacted at 100° C. under a hydrogen pressure of 10 bar, with stirring. When the uptake of hydrogen has ceased (after a reaction time of 5.5 hours), the mixture is cooled, the autoclave is depressurized and the catalyst is filtered off.

reactant | 4-nitrobenzene | 3 mol, 411 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | butan-2-one | 3.3 mol, 238 g | CC(CC)=O | C4H8O
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
catalyst | platinum | 8 g | [Pt] | Pt
product | N-sec-butyl-4-methylaniline | C(C)(CC)NC1=CC=C(C=C1)C | C11H17N
